US08258134B2
A solution of 1-(5-methyl-3-nitro-pyrazol-1-yl)-propan-2-one (500 mg, 2.9 mmol) in ethanol (15 ml) was treated with sodium borohydride (111 mg, 0.29 mmol). The reaction was stirred at 25° C. for 2.5 h. At this time, the reaction was poured onto water and was extracted into ethyl acetate. The organics were concentrated in vacuo to afford 1-(5-methyl-3-nitro-pyrazol-1-yl)-propan-2-ol (440 mg, 88%) which was used without further purification; ES+-HRMS m/e calcd for C7H11N3O3 [M+H+] 186.0873, found 186.0873.

reactant | 1-(5-methyl-3-nitro-pyrazol-1-yl)-propan-2-one | 2.9 mmol, 500 mg | CC1=CC(=NN1CC(C)=O)[N+](=O)[O-] | C7H9N3O3
reactant | sodium borohydride | 0.29 mmol, 111 mg | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-(5-methyl-3-nitro-pyrazol-1-yl)-propan-2-ol | 440 mg, 88% | CC1=CC(=NN1CC(C)O)[N+](=O)[O-] | C7H11N3O3
